US05215986
4-[[4,6-Bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]hydroxymethyl]tetrahydro-2-methyl-2H-1,2-oxazin-3-one
A mixture of 1.1 g (5.7 mmol) of 4-bromo tetrahydro-2-methyl 2H 1,2-oxazin-3-one, Example 1, 1.2 g (5.1 mmol) of 4,6-bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinecarboxaldehyde, Example 6, and 0.75 g (11 mmol) of zinc dust in 30 mL of toluene was stirred at reflux for 18 hours. The cooled reaction mixture was diluted with dichloromethane and vigorously stirred. The zinc was filtered and washed with dichloromethane. The combined filtrates were evaporated to a foam. The residue was purified by flash chromatography (silica gel, 15% ethyl acetate in hexane elution) to give 0.70 g (39%) of the title compound as an oil mixture of diastereomers; MS m/e 352 (M+ 1).

reactant | 4-bromo tetrahydro-2-methyl 2H 1,2-oxazin-3-one | 5.7 mmol, 1.1 g | BrC1C(N(OCC1)C)=O | C5H8BrNO2
reactant | 4,6-bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinecarboxaldehyde | 5.1 mmol, 1.2 g | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C=O | C13H20N2O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | zinc | 11 mmol, 0.75 g | [Zn] | Zn
product | 4-[[4,6-Bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]hydroxymethyl]tetrahydro-2-methyl-2H-1,2-oxazin-3-one | 0.70 g, 39% | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C(C1C(N(OCC1)C)=O)O | C18H29N3O4
